US09126957B2
Step 3. (3aR,4R,5R,6R,7aS)-2-(dimethylamino)-6-(hydroxymethyl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole-4,5-diol
Prepared by boron trichloride-methyl sulfide de-benzylation via a procedure as described above in Intermediate Example 4 Step 3 from (3aR,4R,5R,6R,7aS)-2-(dimethylamino)-4,5-bisbenzyloxy-6-(benzyloxyoxymethyl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole (0.270 g, 0.523 mmol). Purification on silica gel by flash column chromatography (1.0 M NH3 in MeOH/CH2Cl2, 1:4), afforded the product as an off-white solid (0.048 g, 36%). 1H NMR (400 MHz, CD3OD) δ 4.36-4.33 (m, 1H), 3.81-3.76 (m, 2H), 3.63 (dd, J=6.3, 10.8 Hz, 1H), 3.41 (t, J=9.1 Hz, 1H), 3.31 (t, J=9.8 Hz, 1H), 3.02 (s, 6H), 2.24-2.19 (m, 1H), 1.97-1.93 (m, 1H), 1.79-1.71 (m, 1H); 13C NMR (100 MHz, CD3OD) δ 171.90, 77.01, 73.49, 70.83, 63.54, 52.60, 41.98, 40.84, 26.53; MS, m/z=269 (M+23).

reactant | boron trichloride methyl sulfide | B(Cl)(Cl)Cl.CSC
reactant | (3aR,4R,5R,6R,7aS)-2-(dimethylamino)-4,5-bisbenzyloxy-6-(benzyloxyoxymethyl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole | 0.523 mmol, 0.270 g | CN(C=1S[C@@H]2[C@H](N1)[C@H]([C@@H]([C@H](C2)COOCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C | C31H36N2O4S
product | (3aR,4R,5R,6R,7aS)-2-(dimethylamino)-6-(hydroxymethyl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole-4,5-diol | 0.048 g, 36% | CN(C=1S[C@@H]2[C@H](N1)[C@H]([C@@H]([C@H](C2)CO)O)O)C | C10H18N2O3S
